US08710049B2
D: (1R,2R)—N1-(1-(4-(Oxazol-2-yl)phenyl)piperidin-3-yl)cyclohexane-1,2-diamine
To a solution of tert-butyl (1R,2R)-2-(1-(4-(oxazol-2-yl)phenyl)piperidin-3-ylamino)cyclohexylcarbamate (32 mg, 0.073 mmol) and tert-butyl (1R,2R)-2-((1-(4-(oxazol-2-yl)phenyl)pyrrolidin-2-yl)methylamino)cyclohexylcarbamate (134.0 mg, 0.304 mmol) in CH2Cl2 (1.5 mL) was added trifluoroacetic acid (1.5 mL, 19.47 mmol). The reaction was stirred at rt for 1 h. After this time, LC/MS showed no starting material remained and the desired product formed. The reaction was concentrated, and the resulting residue was reconcentrated from CH2Cl2 (2×5 mL). The residue was dried under high vacuum for 1 h to afford the desired product (1R,2R)—N1-(1-(4-(oxazol-2-yl)phenyl)piperidin-3-yl)cyclohexane-1,2-diamine bis-trifluoroacetate (41 mg, 0.072 mmol, 99% yield) and (1R,2S)—N1-((1-(4-(oxazol-2-yl)phenyl)pyrrolidin-2-yl)methyl)cyclohexane-1,2-diamine bis-trifluoroacetate (35 mg, 0.073 mmol, 100% yield) as an oil.

reactant | tert-butyl (1R,2R)-2-(1-(4-(oxazol-2-yl)phenyl)piperidin-3-ylamino)cyclohexylcarbamate | 0.073 mmol, 32 mg | O1C(=NC=C1)C1=CC=C(C=C1)N1CC(CCC1)N[C@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O | C25H36N4O3
reactant | tert-butyl (1R,2R)-2-((1-(4-(oxazol-2-yl)phenyl)pyrrolidin-2-yl)methylamino)cyclohexylcarbamate | 0.304 mmol, 134.0 mg | O1C(=NC=C1)C1=CC=C(C=C1)N1C(CCC1)CN[C@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O | C25H36N4O3
reactant | trifluoroacetic acid | 19.47 mmol, 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (1R,2R)—N1-(1-(4-(Oxazol-2-yl)phenyl)piperidin-3-yl)cyclohexane-1,2-diamine | O1C(=NC=C1)C1=CC=C(C=C1)N1CC(CCC1)N[C@H]1[C@@H](CCCC1)N | C20H28N4O
